US07238808B2
5-Chloro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide
To a stirred solution of 2-amino-1,3-propanediol (1.26 g, 13.8 mmol) in THF (20 mL) was added at 0° C. (ice water bath) commercially available 5-chloro-thiophene-2-sulfonyl chloride (1.0 g, 4.61 mmol) and triethylamine (0.71 mL, 5.07 mmol). The reaction mixture was stirred at room temperature for 16 h and evaporated. The crude product was further purified by flash chromatography (ethyl acetate/heptane) to yield the title compound (0.96 g, 77%) as an off-white solid. MS (ISP) 272.2 [(M+H)+], mp 101° C.

reactant | 2-amino-1,3-propanediol | 13.8 mmol, 1.26 g | NC(CO)CO | C3H9NO2
reactant | 5-chloro-thiophene-2-sulfonyl chloride | 4.61 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | triethylamine | 5.07 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Chloro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide | 0.96 g, 77% | OCC(CO)NS(=O)(=O)C=1SC(=CC1)Cl | C7H10ClNO4S2
